US08865911B2
6-Bromo-2-(2,2-dimethyltetrahydropyran-4-yl)chroman-4-one
A solution of 1-(5-bromo-2-hydroxyphenyl)ethanone (13.5 g, 62.78 mmol), 2,2-dimethyltetrahydro-2H-pyran-4-carbaldehyde (9.40 g, 62.78 mmol) and pyrrolidine (5.22 mL, 62.78 mmol) in MeOH (125 mL) was heated to reflux for 3 h. The mixture was allowed to reach r.t. and then concentrated. The residue was dissolved in EtOAc (100 mL) and washed with 1M NaOH (60 mL), 1M HCl (60 mL), and brine (60 mL) successively. The organic phase was concentrated and the residue was purified by flash chromatography with a gradient of 10% EtOAc in heptane to 40% EtOAc in heptane to give the title compound (16.22 g, 76% yield): 1H NMR (500 MHz, DMSO-d6) δ ppm 1.15 (m, 6 H), 1.26 (m, 2 H), 1.52 (m, 1 H), 1.76 (m, 1 H), 2.12 (ddd, 1 H), 2.65 (m, 1 H), 2.83 (m, 1 H), 3.57 (m, 1 H), 3.66 (m, 1 H), 4.32 (ddd, 1 H), 7.05 (dd, 1 H), 7.70 (dd, 1 H), 7.78 (d, 1 H); MS (ES−) m/z 337 [M−H]−.

reactant | 1-(5-bromo-2-hydroxyphenyl)ethanone | 62.78 mmol, 13.5 g | BrC=1C=CC(=C(C1)C(C)=O)O | C8H7BrO2
reactant | 2,2-dimethyltetrahydro-2H-pyran-4-carbaldehyde | 62.78 mmol, 9.40 g | CC1(OCCC(C1)C=O)C | C8H14O2
reactant | pyrrolidine | 62.78 mmol, 5.22 mL | N1CCCC1 | C4H9N
solvent | MeOH | 125 mL | CO | CH4O
product | 6-Bromo-2-(2,2-dimethyltetrahydropyran-4-yl)chroman-4-one | 16.22 g, 76% yield | BrC=1C=C2C(CC(OC2=CC1)C1CC(OCC1)(C)C)=O | C16H19BrO3
